US05604218
To a stirring solution of 4-methoxy-α-toluenethiol (268 mg, 1.74 mmol) in DMF (1 mL) at 0° C. was added a solution of sodium bis(trimethylsilyl)amide in THF (1.3 mL, 1M, 1.3 mmol). The resulting solution was added via cannula to a solution of 2-cyano-3-chloropyridine (200 mg, 1.45 mmol) in DMF (1 mL) at 0° C. After stirring for 2 h at 0° C., the mixture was poured into water and extracted with ethyl acetate, and the organic extracts were concentrated. The crude product was purified by column chromatography on silica gel, affording 2-cyano-3-(4-methoxybenzylthio)pyridine in quantitative yield. 1H NMR (CDCl3) δ 3.80 (s, 3), 4.20 (s, 2), 6.83 (d, 2, J=10), 7.22 (d, 2, J=10), 7.34 (dd, 1, J=5, 8), 7.66 (d, 1, J=8), 8.50 (d, 1, J=5). To a solution of this compound (245 mg, 0.96 mmol) and anisole (0.52 mL, 4.8 mmol) in trifluoroacetic acid (1.5 mL) at 0° C. was added trifluoromethanesulfonic acid (0.25 mL, 2.8 mmol). The mixture was allowed to warm to room temperature, and was stirred for 1 h. The solvent was removed with a rotary evaporator, and the residue was purified by flash chromatography on silica gel, affording 117 mg (90%) of 2-cyano-3-mercaptopyridine. 1H NMR (CDCl3) δ 4.15 (s, 1), 7.39 (dd, 1, J=5, 8), 7.78 (d, 1, J=8), 8.48 (d, 1, J=5).

reactant | 4-methoxy-α-toluenethiol | 1.74 mmol, 268 mg | COC1=CC=C(C=C1)CS | C8H10OS
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | THF | 1.3 mmol, 1M, 1.3 mL | C1CCOC1 | C4H8O
reactant | 2-cyano-3-chloropyridine | 1.45 mmol, 200 mg | C(#N)C1=NC=CC=C1Cl | C6H3ClN2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-cyano-3-(4-methoxybenzylthio)pyridine | quantitative yield | C(#N)C1=NC=CC=C1SCC1=CC=C(C=C1)OC | C14H12N2OS
